US06652834B2
B) N2,N2-Bis[2-[bis[2-(1,1-dimethylethoxy)-2-oxoethyl]amino]-ethyl]-N6-(1-oxooctadecyl)-L-lysine-(1,1-dimethylethyl)-ester
Stearoyl chloride (5.45 g; 18 mmol) dissolved in CHCl3 (60 mL) was added dropwise in 1 h to a solution of N2,N2-bis[2-[bis[2-(1,1-dimethylethoxy)-2-oxoethyl]amino]ethyl]-L-lysine 1,1-dimethylethyl ester (13.5 g; 18 mmol) in CHCl3 (300 mL) at 0° C. After 10 min the reaction mixture was allowed to rise to room temperature and TLC analysis showed the complete conversion of the starting materials. The solution was washed with 5% aq. NaHCO3, the organic phase was separated, dried over Na2SO4 and then evaporated under reduced pressure. The crude product was purified by flash chromatography (n-hexane/EtOAc=6/4 (v/v)) to give the desired product (11.3 g; 11.2 mmol). Yield 62%. HPLC: 95% (area %). the 13C-NMR, MS and IR spectra were consistent with the structure.

reactant | Stearoyl chloride | 18 mmol, 5.45 g | C(CCCCCCCCCCCCCCCCC)(=O)Cl | C18H35ClO
reactant | N2,N2-bis[2-[bis[2-(1,1-dimethylethoxy)-2-oxoethyl]amino]ethyl]-L-lysine 1,1-dimethylethyl ester | 18 mmol, 13.5 g | CC(C)(C)OC([C@@H](N(CCN(CC(OC(C)(C)C)=O)CC(OC(C)(C)C)=O)CCN(CC(OC(C)(C)C)=O)CC(=O)OC(C)(C)C)CCCCN)=O | C38H72N4O10
solvent | CHCl3 | 60 mL | C(Cl)(Cl)Cl | CHCl3
solvent | CHCl3 | 300 mL | C(Cl)(Cl)Cl | CHCl3
product | N2,N2-Bis[2-[bis[2-(1,1-dimethylethoxy)-2-oxoethyl]amino]-ethyl]-N6-(1-oxooctadecyl)-L-lysine-(1,1-dimethylethyl)-ester | 11.2 mmol, 11.3 g, Yield 62% | CC(C)(C)OC([C@@H](N(CCN(CC(OC(C)(C)C)=O)CC(OC(C)(C)C)=O)CCN(CC(OC(C)(C)C)=O)CC(=O)OC(C)(C)C)CCCCNC(CCCCCCCCCCCCCCCCC)=O)=O | C56H106N4O11
